US06159967
7(a) 3-(3,4-Dichlorophenyl)-3-oxo-1-propanol
119 g (0.46 mole) of ethyl 3-(3,4-dichlorophenyl)-3-oxopropionate were dissolved in 2.4 liters of ethanol, and 115 ml (0.68 mole) of ethyl orthoformate and 4.4 g (22.8 mmole) of p-toluenesulfonic acid were added thereto. The mixture was then heated under reflux for 8 hours. At the end of this time, the reaction solution was poured into 1 liter of a saturated aqueous solution of sodium hydrogen-carbonate and extracted three times, each time with 700 ml of ethyl acetate. The organic extracts were combined, washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was dissolved in 800 ml of tetrahydrofuran and then added dropwise to 4 liters of a suspension of 25.9 g (0.68 mole) of lithium aluminum hydride in tetrahydrofuran over a period of 1 hour, whilst ice-cooling. The mixture was stirred at 0° C. for 2 hours, and then 250 ml of water and 125 ml of a 10% w/v aqueous solution of sodium hydroxide were added thereto, and the mixture was stirred for a further 1 hour at room temperature. It was then filtered through a Celite (trade mark) filter aid, and the filtrate was poured into 1 liter of a saturated aqueous solution of sodium chloride and then extracted with ethyl acetate. The organic extract was dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was dissolved in 500 ml of chloroform. 500 ml of 50% v/v aqueous trifluoroacetic acid were added to the resulting solution over a period of 30 minutes, whilst ice-cooling, and the mixture was stirred for a further 30 minutes at the same temperature. At the end of this time, the reaction solution was diluted with 300 ml of methylene chloride, and the organic layer was washed with water and then with a saturated aqueous solution of sodium hydrogencarbonate, after which it was dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography, using a 9:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 46 g of the title compound as white crystals.

reactant | ethyl 3-(3,4-dichlorophenyl)-3-oxopropionate | 0.46 mole, 119 g | ClC=1C=C(C=CC1Cl)C(CC(=O)OCC)=O | C11H10Cl2O3
reactant | ethyl orthoformate | 0.68 mole, 115 ml | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid | 22.8 mmole, 4.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
reactant | lithium aluminum hydride | 0.68 mole, 25.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 2.4 liters | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
product | 3-(3,4-Dichlorophenyl)-3-oxo-1-propanol | 46 g | ClC=1C=C(C=CC1Cl)C(CCO)=O | C9H8Cl2O2
